US05362744
(b) N'-[2,6-Bis(1-methylethyl)phenyl]-N-cyclohexyl-N-(2-dodecvl-2H-tetrazol-5-yl)-urea
A suspension of a 60% dispersion of sodium hydride in mineral oil (0.2648 g, 0.0066 mol) in a solution of triphosgene (0.4583 g, 0.001544 mol) and N-cyclohexyl-2-dodecyl-2H-tetrazol-5-amine (1.5540 g, 0.0046313 mol) in anhydrous tetrahydrofuran (15 mL) under a nitrogen atmosphere was refluxed for 4.5 days. To the mixture was added 2,6-bis(1-methylethyl)aniline (0.88 mL, 0.0047 mol) and diisopropylethylamine (0.89 mL, 0.0051 mol), and the reflux was continued for 7 days. The mixture was rotoevaporated, and the residue partitioned between diethyl ether and saturated sodium bicarbonate. The organic layer was washed with 1M hydrochloric acid and saturated sodium chloride, dried (MgSO4), and rotoevaporated to an oil. The oil was chromatographed on silica gel (430 g, 230-400 mesh) using PET ether-ethyl acetate (30:1, 14×400 mL) to give the title compound as an oil, yield 1.4522 g (58%) . 1H NMR (CDCl3): δ 8.8 (s, 1H), 7.3 (dd, 2H), 7.2 (d, 1H), 4.6 (m, 3H), 3.1 (septet, 2H), 2.1 (m, 4H), 1.8 (m, 4H), 1.6 (m, 2H), 1.3 (m, 32H), 0.9 (t, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | triphosgene | 0.001544 mol, 0.4583 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-cyclohexyl-2-dodecyl-2H-tetrazol-5-amine | 0.0046313 mol, 1.5540 g | C1(CCCCC1)NC=1N=NN(N1)CCCCCCCCCCCC | C19H37N5
reactant | 2,6-bis(1-methylethyl)aniline | 0.0047 mol, 0.88 mL | CC(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | diisopropylethylamine | 0.0051 mol, 0.89 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N'-[2,6-Bis(1-methylethyl)phenyl]-N-cyclohexyl-N-(2-dodecvl-2H-tetrazol-5-yl)-urea | CC(C)C1=C(C(=CC=C1)C(C)C)NC(N(C=1N=NN(N1)CCCCCCCCCCCC)C1CCCCC1)=O | C32H54N6O
